US06514964B1
Step D: (tert-Butoxy)-N-[(2-bromo-5-nitrophenyl)methyl]-N-(3-hydroxypropyl)carboxamide
To a stirring solution of 3-{[(2-bromo-5-nitrophenyl) methyl]amino}propan-1-ol (1 eq) in tetrahydrofuran (0.07 M) and saturated sodium bicarbonate (20 eq) at room temperature was added di-tert-butyl dicarbonate (2 eq). After stirring for 4 hr, the solvent was removed by rotary evaporation and the residue was extracted with ethyl acetate. The organic phase was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (10% EtOAc/Hexane). EI-MS m/z 389 (M+H)+.

reactant | 3-{[(2-bromo-5-nitrophenyl) methyl]amino}propan-1-ol | 1 eq | BrC1=C(C=C(C=C1)[N+](=O)[O-])CNCCCO | C10H13BrN2O3
reactant | sodium bicarbonate | 20 eq | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 0.07 M | O1CCCC1 | C4H8O
product | (tert-Butoxy)-N-[(2-bromo-5-nitrophenyl)methyl]-N-(3-hydroxypropyl)carboxamide | C(C)(C)(C)OC(=O)N(CCCO)CC1=C(C=CC(=C1)[N+](=O)[O-])Br | C15H21BrN2O5
